US08058431B2
2) 2-Ethyl-1-phenyl-1H-quinazolin-4-one
2.0 g (9.42 mmol) 2-phenylamino-benzamide were dissolved in 30 ml trichloromethane the solution was cooled to 0° C., and 2.61 g (2.44 ml, 28.2 mmol) propionyl chloride was added slowly. The mixture was boiled for 90 minutes and afterwards neutralized with a saturated sodium bicarbonate solution. After evaporation the substance was crystallized from isopropanol.

reactant | 2-phenylamino-benzamide | 9.42 mmol, 2.0 g | C1(=CC=CC=C1)NC1=C(C(=O)N)C=CC=C1 | C13H12N2O
reactant | propionyl chloride | 28.2 mmol, 2.44 ml, 2.61 g | C(CC)(=O)Cl | C3H5ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | trichloromethane | 30 ml | ClC(Cl)Cl | CHCl3
product | 2-Ethyl-1-phenyl-1H-quinazolin-4-one | C(C)C=1N(C2=CC=CC=C2C(N1)=O)C1=CC=CC=C1 | C16H14N2O
